US07265093B2
Synthesis of 7-Methyl-6-phenyl-1H-indole-2,3-dione.
6-Bromo-7-methyl-1H-indole-2,3-dione (100 mg, 0.38 mmol) and phenylboronic acid (53 mg, 1.1 eq) were dissolved in 10 mL DME. Pd(PPh3)4 (22 mg, 0.05 eq) were added followed by NaHCO3 (65 mg, 2.0 eq) dissolved in 10 mL water. The mixture was refluxed for 2.5 hr and the organic solvent was removed by evaporation. The mixture was extracted with ethyl acetate and the combined organic layers were dried over Na2SO4 and purified by SiO2 chromatography to give the title compound (50 mg, 51%).

reactant | 6-Bromo-7-methyl-1H-indole-2,3-dione | 0.38 mmol, 100 mg | BrC1=CC=C2C(C(NC2=C1C)=O)=O | C9H6BrNO2
reactant | phenylboronic acid | 53 mg, 1.1 eq | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | NaHCO3 | 65 mg, 2.0 eq | C(=O)(O)[O-].[Na+]
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | water | 10 mL | O | H2O
catalyst | Pd(PPh3)4 | 22 mg, 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Methyl-6-phenyl-1H-indole-2,3-dione | 50 mg, 51% | CC=1C(=CC=C2C(C(NC12)=O)=O)C1=CC=CC=C1 | C15H11NO2
